US05672567
To a well stirred solution of nitric acid (8 ml) and water (8 ml) was added sodium nitrite (0.93 g). The reaction vessel was cooled externally with a water bath. 4-(1-hydroxy-2'-trifluoromethylbenzyl)-2-mercapto-3-methylimidazole (4.0 g) was added over 5 minutes to the greenish solution. After 1 hour, more sodium nitrite (3.0 g) was added and stirring was continued overnight. Sodium carbonate was added to saturate the mixture. Ethyl acetate was added to dissolve all organic solids. The remaining solid was removed by filtration. Water was added to the filtrate. The layers were separated after being shaken. Removal of water under reduced pressure gave 4-(1-hydroxy-2'-trifluoromethylbenzyl)-3-methylimidazole (2.8 g).

reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | 0.93 g | N(=O)[O-].[Na+]
reactant | 4-(1-hydroxy-2'-trifluoromethylbenzyl)-2-mercapto-3-methylimidazole | 4.0 g | OC1(CC=2N(C(=NC2)S)C)C(C=CC=C1)C(F)(F)F | C12H13F3N2OS
reactant | sodium nitrite | 3.0 g | N(=O)[O-].[Na+]
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 8 ml | O | H2O
product | 4-(1-hydroxy-2'-trifluoromethylbenzyl)-3-methylimidazole | 2.8 g | OC1(CC=2N(C=NC2)C)C(C=CC=C1)C(F)(F)F | C12H13F3N2O
